US07332354B2
b) Preparation of 2-(6-tert.-butyldimethylsilyloxybenzothiazole-2-yl)-4,5-dihydro-5,5-dimethylthiazole-4-yl carboxylic acid chloride (Structure 5 in FIG. 6)
2-(6-tert.-butyldimethylsilyloxybenzothiazole-2-yl)-4,5-dihydro-5,5-dimethyl-4-thiazole carboxylic acid is dissolved under argon atmosphere in 8 ml dry methylene chloride, the clear solution is cooled to −15° C. and a mixture of 0.162 ml (1,875 mmol) oxalyl chloride and 500 μl of freshly distilled dimethyl formamide are added dropwise to the reaction under vigorous stirring. Slight gas emission can be observed during this step. The reaction mixture is stirred for additional 30 minutes at −15° C. and subsequently diluted with freshly destilled methylene chloride to a final volume of 30 ml.

reactant | 2-(6-tert.-butyldimethylsilyloxybenzothiazole-2-yl)-4,5-dihydro-5,5-dimethyl-4-thiazole carboxylic acid | C(C)(C)(C)C1=CC2=C(N=C(S2)C=2SC(C(N2)C(=O)O)(C)C)C(=C1)O[SiH](C)C | C19H26N2O3S2Si
reactant | oxalyl chloride | 1,875 mmol, 0.162 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 2-(6-tert.-butyldimethylsilyloxybenzothiazole-2-yl)-4,5-dihydro-5,5-dimethylthiazole-4-yl carboxylic acid chloride | C(C)(C)(C)C1=CC2=C(N=C(S2)C=2SC(C(N2)C(=O)Cl)(C)C)C(=C1)O[SiH](C)C | C19H25ClN2O2S2Si
